US07259266B2
Step 2: Preparation of ethyl 6-chloro-5-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To the mixture of 6-chloro-5-hydroxyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid (0.5g, 1.7 mmol) and cesium carbonate (800 mg, 0.94 mmol) in 10 mL of DMF was added ethyl bromide(0.80 mnL, 6.2 mmol). The mixture was stirred at room temperature overnight. To the reaction was added 150 mL of ethyl acetate, the resulting organic solution was washed with brine, and dried over anhydrous magnesium sulfate. After removing the volatiles, the residue was purified on silica gel column with EtOAc/hexane mixture. It gave 0.4 g of white solid. Part of the product was further purified on reverse phase HPLC for analytical characterization. LC-MS(ES+) 351.3(M+1, 100), 19F NMR(CDCl3/400 Hz) −78.782(d, J=6.8 Hz); 1H NMR (CDCl3/400 Hz) 7.94(s, 1H), 7.27(d, J=8.8 Hz, 1H), 6.70(d, J=8.8 Hz, 1H), 5.66(q, J=6.8 Hz, 1H), 4.32(m, 2H), 4.10(m, 2H), 1.42(t, J=7.2 Hz, 3H), 1.34(t, J=7.2 Hz, 3H); 13C NMR(CDCl3/400 Hz) 163.8, 153.2, 152.6, 133.5, 132.0, 123.5(q, J=287.6 Hz), 121.2, 117.2, 115.6, 112.6, 71.4, 70.5(q, J=33.2 Hz), 61.8, 15.5, 14.4. High resolution MS(ES+) m/e calc. for C15H15ClF3O4: 351.0605(M+H), 351.0641(M+H, observed).

reactant | 6-chloro-5-hydroxyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 1.7 mmol, 0.5g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)O)O | C11H6ClF3O4
reactant | cesium carbonate | 0.94 mmol, 800 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromide | 6.2 mmol | C(C)Br | C2H5Br
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ethyl 6-chloro-5-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.4 g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)OCC | C15H14ClF3O4
